US07674815B2
1.71 g (10.7 mmol) of bromine were added in one portion to a solution of 1.35 g (10.7 mmol) of 4,4-dimethyl-cyclohexanone in methanol (10 ml) at −10° C. The reaction mixture was then stirred for 10 min at −10° C., for 30 min at 0° C. and finally for 8 h at RT. The reaction was then quenched by addition of water (5 ml) and stirred overnight at RT. Additional water was added (20 ml) leading to the formation of a precipitate that was collected by filtration. The crude 2-bromo-4,4-dimethyl-cyclohexanone (1.72 g, 78%) that was obtained as an orange solid was used in the next reaction step without further purification. 1HNMR (CDCl3, 300 MHz): δ 1.09 (s, 3H), 1.23 (s, 3H), 1.75 (m, 2H), 2.09 (t, J=13.1 Hz, 1H), 2.34 (ddd, J=13.3 and 6.1 and 2.8 Hz, 1H), 2.59 (m, 2H), 4.77 (dd, J=12.9 and 5.9 Hz, 1H).

reactant | bromine | 10.7 mmol, 1.71 g | BrBr | Br2
reactant | 4,4-dimethyl-cyclohexanone | 10.7 mmol, 1.35 g | CC1(CCC(CC1)=O)C | C8H14O
solvent | methanol | 10 ml | CO | CH4O
product | 2-bromo-4,4-dimethyl-cyclohexanone | 1.72 g, 78% | BrC1C(CCC(C1)(C)C)=O | C8H13BrO
